US08871753B2
Step D: 6-Chloro-2,4,8,15,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-14-one hydrochloride
To a solution of tert-butyl [3-({3-[(2,5-dichloropyrimidin-4-yl)amino]benzoyl}amino)phenyl]carbamate (20.0 mg, 0.042 mmol) in 2-methoxyethanol (0.2 mL) was added 4.0 M of hydrogen chloride in 1,4-dioxane (63 μL). The resulting mixture was heated at 150° C. in the microwave for 15 min. After filtration of the reaction mixture, the crude was triturated with MeOH/EtOAc to give the desired product as an off-white powder (2 mg, 14%). LCMS for C17H12ClN5O (M+H)+: m/z=338.0. 1H NMR (400 MHz, CD3OD): δ 9.57 (s, 1H), 9.42 (s, 1H), 8.33 (s, 1H), 8.16 (s, 1H), 7.91 (s, 1H), 7.29 (dd, J=7.9, 7.6 Hz, 1H), 7.15 (d, J=7.9 Hz, 1H), 7.10-7.05 (m, 2H), 6.90 (dd, J=8.2, 0.9 Hz, 1H), 6.84-6.81 (m, 1H), 4.11 (s, 2H).

reactant | tert-butyl [3-({3-[(2,5-dichloropyrimidin-4-yl)amino]benzoyl}amino)phenyl]carbamate | 0.042 mmol, 20.0 mg | ClC1=NC=C(C(=N1)NC=1C=C(C(=O)NC=2C=C(C=CC2)NC(OC(C)(C)C)=O)C=CC1)Cl | C22H21Cl2N5O3
reactant | hydrogen chloride | 4.0 M | Cl | ClH
solvent | 2-methoxyethanol | 0.2 mL | COCCO | C3H8O2
solvent | 1,4-dioxane | 63 μL | O1CCOCC1 | C4H8O2
product | 6-Chloro-2,4,8,15,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-14-one hydrochloride | 2 mg, 14% | Cl.ClC=1C=NC=2NC=3C=CC=C(NC(C4=CC=CC(NC1N2)=C4)=O)C3 | InChI=1S/C17H12ClN5O.ClH/c18-14-9-19-17-22-13-6-2-5-12(8-13)21-16(24)10-3-1-4-11(7-10)20-15(14)23-17;/h1-9H,(H,21,24)(H2,19,20,22,23);1H
